US06503907B2
2.27 g (10 mmol) 1-(4-Fluoro-phenyl)-1H-indol-5-ol in 5 ml pyridine were treated with 1.85 ml (11 mmol) trifluoromethanesulfonic acid anhydride at 0° C. The solution was stirred at RT over night, diluted with ether and water, the organic phase was washed with 2M HCl and water, and dried over Na2SO4. Purification by column chromatography with hexane yielded 2.7 g (75%) Trifluoro-methanesulfonic acid 1-(4-fluoro-phenyl)-1H-indol-5-yl ester as white solid, MS: 359 (M).

reactant | 1-(4-Fluoro-phenyl)-1H-indol-5-ol | 10 mmol, 2.27 g | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)O | C14H10FNO
reactant | trifluoromethanesulfonic acid anhydride | 11 mmol, 1.85 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | Trifluoro-methanesulfonic acid 1-(4-fluoro-phenyl)-1H-indol-5-yl ester | 2.7 g, 75% | FC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C15H9F4NO3S
